US07943619B2
N-Acetyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (200 mg, 0.7 mmol) in THF (4 mL) was added triethylamine (0.12 mL, 0.85 mmol). The mixture was cooled in an ice bath and a solution of acetyl chloride (0.067 ml, 0.85 mmol) in THF (1 ml) was added dropwise. After stirring for 1 h at room temperature the precipitate was filtered and the organic phase was evaporated. Chromatography (SiO2, dichloromethane:methanol=100:0 to 98:2) afforded the title compound (160 mg, 62%) as a light yellow oil. MS: m/e=367.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 0.7 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | triethylamine | 0.85 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.85 mmol, 0.067 ml | C(C)(=O)Cl | C2H3ClO
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | THF | 1 ml | C1CCOC1 | C4H8O
product | N-Acetyl-N-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-acetamide | 160 mg, 62% | C(C)(=O)N(C(C)=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C19H18N4O4
